US04994493
5-Nitro-2-(2-phenylethylamino)benzoic acid
A solution of 5.6 g of 2-fluoro-5-nitrobenzoic acid and 14.5 g of 2-phenylethylamine in 20 ml of dimethylacetamide is reacted and worked up in analogy to Example 1. Yellow crystals from isopropanol, melting point 116°-118° C.

reactant | 2-fluoro-5-nitrobenzoic acid | 5.6 g | FC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | 2-phenylethylamine | 14.5 g | C1(=CC=CC=C1)CCN | C8H11N
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
product | 5-Nitro-2-(2-phenylethylamino)benzoic acid | [N+](=O)([O-])C=1C=CC(=C(C(=O)O)C1)NCCC1=CC=CC=C1 | C15H14N2O4
